US05814651
Methyl 4-[2-[4-methoxy-3-(1-methyl-phenylbutoxy)phenyl]ethyl]benzoate
A mixture of (1.18 g, 2.74 mmol, 1.0 eq) methyl 4-[2-[4-methoxy-3-(1-methyl-4-phenylbutoxy)phenyl]ethenyl]benzoate and 0.600 g of 10% Pd/C in 30 ml methanol and 30 ml tetrahydrofuran was placed on a Parr hydrogenation apparatus and shaken under 20 psi H2 at room temperature for 1.5 hours. The reaction mixture was filtered through celite, concentrated in vacuo, and flash chromatographed on a silica gel column eluting with 20% ether-hexane to afford 1.00 g, 84%, of a clear oil. Elemental Analysis Calc'd for C28H32O4 : Calc'd: C, 77.75; H, 7.46. Found: C, 77.55; H, 7.55.

reactant | methyl 4-[2-[4-methoxy-3-(1-methyl-4-phenylbutoxy)phenyl]ethenyl]benzoate | 2.74 mmol, 1.18 g, 1.0 eq | COC1=C(C=C(C=C1)C=CC1=CC=C(C(=O)OC)C=C1)OC(CCCC1=CC=CC=C1)C | C28H30O4
reactant | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | 0.600 g | [Pd] | Pd
product | Methyl 4-[2-[4-methoxy-3-(1-methyl-phenylbutoxy)phenyl]ethyl]benzoate | COC1=C(C=C(C=C1)CCC1=CC=C(C(=O)OC)C=C1)OCCCCC1(CC=CC=C1)C | C28H34O4
